US05563277
A. 5-[[3,5-bis (1,1 -dimethylethyl)-4-hydroxyphenyl]methyl]-3 -benzyl-4-thiazolidinone
3-[3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-2-mercaptopropanoic acid (4.58 g; 14.75 mmole), prepared substantially in accordance with the method described in Example 1A, was suspended in 50 ml of toluene. Under a nitrogen atmosphere, 0.45 g (15.0 mmoles) of paraformaldehyde was added followed by 1.67 grams (15.56 mmoles) of benzylamine. The resulting solution was heated at reflux temperature for one hour with removal of water by means of a Dean-Stark apparatus. The solution was allowed to cool to room temperature. Fifty milliliters of ethyl acetate was added and the resultant clear, yellow solution was extracted with 35 ml of a 0.5N hydrochloric acid solution, resulting in a cloudy yellow organic layer. An additional 30 ml of ethyl acetate was added to the cloudy organic layer and the resulting solution was extracted again with 35 ml of a 0.5N hydrochloric acid solution, resulting in yet another cloudy organic layer. Fifteen milliliters of ethyl acetate was added to the cloudy organic layer which was then washed with 30 ml of a 1:1 bicarbonate/brine solution, followed by 30 ml of a brine solution. The resulting solution was then dried with sodium sulfate, filtered and evaporated to provide 7.2 g of a viscous, cloudy oil.

reactant | 3-[3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-2-mercaptopropanoic acid | 14.75 mmole, 4.58 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(C(=O)O)S | C17H26O3S
reactant | paraformaldehyde | 15.0 mmoles, 0.45 g | C=O | CH2O
reactant | benzylamine | 15.56 mmoles, 1.67 grams | C(C1=CC=CC=C1)N | C7H9N
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | Fifteen milliliters | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[[3,5-bis (1,1 -dimethylethyl)-4-hydroxyphenyl]methyl]-3 -benzyl-4-thiazolidinone | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC1C(N(CS1)CC1=CC=CC=C1)=O | C25H33NO2S
